US06291716B1
In a 500 ml pressure reactor, N-phenyl-(1-phenylethylidene)-amine 63 mg (0.32 mmol), tristriphenylphosphine rhodium (I) chloride 6 mg (0.0065 mmol) and 3,3-dimethyl-1-butene 27 mg (0.32 mmol) were placed and dissolved in toluene 100 mg. While the reactor was stopped with a stopper, the reactants were heated at 150° C. for 2 hours with stirring. After completion of the reaction, the reactant mixture was dissolved in THF 3 ml and then combined with 1 N HCl soln. 10 ml, followed by hydrolysis with stirring for 12 hours at room temperature. After the mixture was three times extracted with Et2O and CH2Cl2, the organic layer was dried over MgSO4 and then filtered, and the solvent was evaporated under reduced pressure. The reactant mixture of the organic layer was purified by column chromatography on silica gel (5:2 hexane:ethyl acetate) to obtain 2-(3,3-dimethylbutyl)phenyl-1-ethanone 56 mg (0.27 mmol). Yield: 85%. Under the same conditions, various ketamines were employed. The results are given in Table 2, below.

reactant | N-phenyl-(1-phenylethylidene)-amine | 0.32 mmol, 63 mg | C1(=CC=CC=C1)N=C(C)C1=CC=CC=C1 | C14H13N
reactant | 3,3-dimethyl-1-butene | 0.32 mmol, 27 mg | CC(C=C)(C)C | C6H12
reactant | HCl | 1 N | Cl | ClH
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | toluene | 100 mg | C1(=CC=CC=C1)C | C7H8
product | 2-(3,3-dimethylbutyl)phenyl-1-ethanone | 0.27 mmol, 56 mg, Yield: 85% | CC(CCC1=C(C=CC=C1)C(C)=O)(C)C | C14H20O
